US07842830B2
1-(3,4-Bis-dodecyloxy-phenyl)-2-{4-[6-(3-methyloxetan-3-ylmethoxy)hexyloxy]phenyl}ethane-1,2-dione (JYC-I-148-A).
A mixture of JYC-I-146-A (1.46 g, 2.5 mmol), JYC-I-43-A (0.72 g, 2.7 mmol), and K2CO3 (0.68 g, 4.9 mmol) in 30 mL of DMF was refluxed at 80° C. overnight and then heated at 150° C. for additional 3 h. The reaction mixture was quenched with a saturated NH4Cl aqueous solution and extracted with CH2Cl2. The organic phase was washed with H2O and dried over anhydrous MgSO4. The solvent was removed under reduced pressure to give brown oil. The crude product was purified by column chromatography (silica gel, hexanes:ethyl acetate=6:1 (v/v)) to give a yellow solid (0.99 g, 52%). 1H NMR (300 MHz, CDCl3, δ): 7.89 (d, J=8.8 Hz, 2H), 7.54 (d, J=2.0 Hz, 1H), 7.41 (dd, J=8.3 Hz, 2.0 Hz, 1H), 6.91 (d, J=9.3 Hz, 2H), 6.82 (d, J=8.8 Hz, 1H), 4.47 (d, J=5.9 Hz, 2H), 4.32 (d, J=5.9 Hz, 2H), 3.98-4.05 (m, 6H), 3.443 (t, J=6.3 Hz, 2H), 3.437 (s, 2H), 1.80 (m, 6H), 1.59 (m, 2H), 1.27 (s, 3H), 1.20-1.50 (m, 40H), 0.85 (t, J=6.6 Hz, 6H). 13C {1H} NMR (75 MHz, CDCl3, δ): 193.73, 193.45, 164.35, 154.99, 149.30, 132.28, 126.19, 126.08, 126.03, 114.61, 112.31, 111.60, 80.13, 76.04, 71.36, 69.20, 69.07, 68.26, 39.88, 31.86, 29.65, 29.61, 29.57, 29.54, 29.41, 29.30, 29.03, 28.93, 28.88, 25.94, 25.87, 25.74, 22.63, 21.32, 14.05. HRMS-FAB (m/z): [M]+ calcd for C49H7O7, 778.5748; found, 778.5740. Anal. Calcd for C49H78O7: C, 75.54; H, 10.09. Found: C, 75.44; H, 10.20.

reactant | 1-(3,4-Bis-dodecyloxy-phenyl)-2-(4-hydroxyphenyl)ethane-1,2-dione | 2.5 mmol, 1.46 g | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C(C(=O)C1=CC=C(C=C1)O)=O | C38H58O5
reactant | K2CO3 | 4.9 mmol, 0.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(3,4-Bis-dodecyloxy-phenyl)-2-{4-[6-(3-methyloxetan-3-ylmethoxy)hexyloxy]phenyl}ethane-1,2-dione | 0.99 g, 52% | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C(C(=O)C1=CC=C(C=C1)OCCCCCCOCC1(COC1)C)=O | C49H78O7
